US04617307
5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride
A solution of 2.0 g of 4-(4-chloro-4-p-cyanophenyl-n-butyl)-1H-imidazole in 50 ml of chloroform is refluxed for 4 hours under nitrogen, cooled and evaporated to yield the title compound.

reactant | 4-(4-chloro-4-p-cyanophenyl-n-butyl)-1H-imidazole | 2.0 g | ClC(CCCC=1N=CNC1)C1=CC=C(C=C1)C#N | C14H14ClN3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-p-Cyanophenyl-5,6,7,8-tetrahydroimidazo[1,5-a]pyridine hydrochloride | Cl.C(#N)C1=CC=C(C=C1)C1CCCC=2N1C=NC2 | InChI=1S/C14H13N3.ClH/c15-8-11-4-6-12(7-5-11)14-3-1-2-13-9-16-10-17(13)14;/h4-7,9-10,14H,1-3H2;1H
